US05610161
5-(4-Chlorophenyl)-5-hydroxy-1-azaspiro[5.5]undecane (105.1 g) was added in portions to vigorously stirred concentrated sulphuric acid (600 ml) over 20 minutes, then the mixture was stirred at ambient temperature for a further 1 hour and poured carefully onto ice (2 l) causing a white solid to precipitate. The mixture was cooled in ice for 2 hours and the solid was collected by filtration. The solid was basified by addition to an excess of 5M aqueous sodium hydroxide solution and the product was extracted into ether (4×200 ml) followed by dichloromethane (2×250 ml). The extracts were combined, dried over sodium sulphate and the solvents removed in vacuo to give 5-(4-chlorophenyl)-1-azaspiro[5.5]undec-4-ene as a cream solid. Yield 98 g.

reactant | 5-(4-Chlorophenyl)-5-hydroxy-1-azaspiro[5.5]undecane | 105.1 g | ClC1=CC=C(C=C1)C1(CCCNC12CCCCC2)O | C16H22ClNO
solvent | sulphuric acid | 600 ml | S(O)(O)(=O)=O | H2O4S
product | 5-(4-chlorophenyl)-1-azaspiro[5.5]undec-4-ene | ClC1=CC=C(C=C1)C1=CCCNC12CCCCC2 | C16H20ClN
